US05216015
Step 8: Preparation of 3α-acetoxy-12α-(2,2-dimethyl)butyryloxy-5β-chol-8(14)-en-23,24-diol
To a mixture of 3α-acetoxy-12α-(2,2-dimethyl)butyryloxy-5β-chola-8(14),23-diene (2.5 g), osmium tetroxide (0.092 g), tert-butyl alcohol (8 ml), and water (2.3 ml) is added 4-methylmorpholine-N-oxide hydrate (0.334 g). The mixture is stirred for about 2 hours at room temperature, diluted with 20% ethyl acetate in ether and washed with aqueous sodium bisulfite. The organic solution is dried over magnesium sulfate, filtered and concentrated in vacuo to give the desired product which is used, without further treatment, for the next step.

reactant | 3α-acetoxy-12α-(2,2-dimethyl)butyryloxy-5β-chola-8(14),23-diene | 2.5 g | C(C)(=O)O[C@H]1C[C@H]2CCC3=C4CC[C@H]([C@@H](CC=C)C)[C@]4([C@H](C[C@@H]3[C@]2(CC1)C)OC(C(CC)(C)C)=O)C | C32H50O4
reactant | tert-butyl alcohol | 8 ml | C(C)(C)(C)O | C4H10O
reactant | water | 2.3 ml | O | H2O
reactant | 4-methylmorpholine-N-oxide hydrate | 0.334 g | O.C[N+]1(CCOCC1)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
catalyst | osmium tetroxide | 0.092 g | [Os](=O)(=O)(=O)=O
product | 3α-acetoxy-12α-(2,2-dimethyl)butyryloxy-5β-chol-8(14)-en-23,24-diol | C(C)(=O)O[C@H]1C[C@H]2CCC3=C4CC[C@H]([C@@H](CC(CO)O)C)[C@]4([C@H](C[C@@H]3[C@]2(CC1)C)OC(C(CC)(C)C)=O)C | C32H52O6
